US09023847B2
74. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(pyridin-4-ylmethyl)-amino]-ethyl}-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 4-pyridinecaboxaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.35-8.42 (2H, m) 8.00 (1H, d, J=5.61 Hz) 7.65 (1H, d, J=5.42 Hz) 7.46 (1H, d, J=5.47 Hz) 7.36-7.41 (2H, m) 7.24 (1H, d, J=3.56 Hz) 6.86 (1H, d, J=5.66 Hz) 6.55 (1H, d, J=3.56 Hz) 3.82 (2H, s) 3.51 (2H, t, J=6.25 Hz) 2.79 (2H, t, J=6.17 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 4-pyridinecaboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(pyridin-4-ylmethyl)-amino]-ethyl}-amide | N1=CC=C(C=C1)CNCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H20N6OS
